simulator lang=spectre
global 0
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=bjt_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=dio_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=res_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=mim_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=var_tt

subckt SMCNR VINN VINP VOUT IBIAS VDD VSS
NM4 (VOUT IBIAS VSS VSS) n18 w=1.53e-05 l=1.9e-07 m=1 //// Load transistor, 2nd stage
NM0 (net27 VINN net26 VSS) n18 w=3.4e-07 l=2.3e-07 m=1 //// Input transistor, 1st stage
NM3 (IBIAS IBIAS VSS VSS) n18 w=2.7e-07 l=1.8e-07 m=1 //// Bias transistor
NM2 (net26 IBIAS VSS VSS) n18 w=2.4e-07 l=2.9e-07 m=1 //// Current transistor, 1st stage
NM1 (net28 VINP net26 VSS) n18 w=2.7e-07 l=3.5e-07 m=1 //// Input transistor, 1st stage
PM2 (VOUT net28 VDD VDD) p18 w=1.189e-05 l=2.6e-07 m=2 //// Input transistor, 2nd stage
PM1 (net27 net27 VDD VDD) p18 w=2.3e-07 l=2.9e-07 m=1 //// Load transistor, 1st stage
PM0 (net28 net27 VDD VDD) p18 w=2.9e-07 l=2e-07 m=1 //// Load transistor, 1st stage
C0 (net28 net29) capacitor c=8.9e-13 m=1 //// Miller cap
R0 (net29 VOUT) resistor r=1020.0 m=1 //// Nulling resistor
ends SMCNR



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=4e-11
            I0 (VDD IBIAS) isource dc=2e-06 type=dc
            V2 (VINP 0) vsource dc=0.9 type=dc
            IPRB0 (VINN VOUT) iprobe
            I1 (VINN VINP VOUT IBIAS VDD VSS) SMCNR
            